US05859014
substituting 5-methoxymethyl-2,4(1H,3H)-pyrimidinedione and benzyl bromide gave 1-benzyl-5-methoxymethyl-2,4(1H,3H)-pyrimidinedione, m.p. 134°-136° C.;

reactant | 5-methoxymethyl-2,4(1H,3H)-pyrimidinedione | COCC=1C(NC(NC1)=O)=O | C6H8N2O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-benzyl-5-methoxymethyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(NC(C(=C1)COC)=O)=O | C13H14N2O3
